US05747516
Step B: Preparation of 1-Iodo-2-[(2-methylphenoxy)methyl]benzene
Sodium hydride (60% oil dispersion) (7.8 g) was added portionwise to a ice-water cooled solution of o-cresol (21.1 g) in tetrahydrofuran (500 mL). The mixture was stirred 20 minutes and then 1-(bromomethyl)-2-iodobenzene (58 g) was added. The mixture was warmed to 60° C. for 16 h. Additional sodium hydride (2 g) was added and the reaction mixture heated for an additional 3 h. The reaction mixture was cooled and carefully quenched with water and extracted with ethyl acetate (2×250 mL). The combined organic extracts were dried (Mg SO4), filtered and concentrated under reduced pressure to an oil, which was triturated with cold hexane to provide a solid which was collected by filtration to yield 59.1 g (94%) of the title compound of Step B as a white solid, mp 106°-108° C.

reactant | Sodium hydride | 7.8 g | [H-].[Na+]
reactant | o-cresol | 21.1 g | C1(=CC=CC=C1O)C | C7H8O
reactant | 1-(bromomethyl)-2-iodobenzene | 58 g | BrCC1=C(C=CC=C1)I | C7H6BrI
reactant | sodium hydride | 2 g | [H-].[Na+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 1-Iodo-2-[(2-methylphenoxy)methyl]benzene | 59.1 g, 94% | IC1=C(C=CC=C1)COC1=C(C=CC=C1)C | C14H13IO
